### PR TITLE
[Merged by Bors] - fix: correct bad handling of rat literals in `ring_nf`

### PR DESCRIPTION
**Pull request by eric-wieser**
Reported [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ring_nf.20returns.20ugly.20literals/near/400988184):

> ```lean
> import Mathlib.Data.Real.Basic
> 
> local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue lean4#2220
> 
> example {n : ℝ} : (n + 1 / 2) ^ 2 * (n + 1 + 1 / 3) ≤ (n + 1 / 3) * (n + 1) ^ 2 := by
>   ring_nf
> ```
> After the `ring_nf` call, the goal looks like:
> ```lean
>  ↑(Int.ofNat 1) / ↑3 + n * (↑(Int.ofNat 19) / ↑12) + n ^ 2 * (↑(Int.ofNat 7) / ↑3) + n ^ 3 ≤
>   ↑(Int.ofNat 1) / ↑3 + n * (↑(Int.ofNat 5) / ↑3) + n ^ 2 * (↑(Int.ofNat 7) / ↑3) + n ^ 3
> ```

This removes the unwanted `Int.ofNat` and coercions.

The docstring was apparently incorrect on `Rat.rawCast` (according to @digama0).
With that in mind, it's just a case of fixing the local lemmas used to clean up, to reflect the actual invariant instead of the previously-documented one.

This also fixes a hang when using `mode = .raw`, by using only a single pass to prevent `1` recursively expanding to `Nat.rawCast 1 + 0`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/Result.lean [hunk 1]
```diff
@@ -194,7 +194,8 @@ A "raw rat cast" is an expression of the form:
 
 * `(Nat.rawCast lit : α)` where `lit` is a raw natural number literal
 * `(Int.rawCast (Int.negOfNat lit) : α)` where `lit` is a nonzero raw natural number literal
-* `(Rat.rawCast n d : α)` where `n` is a raw int cast, `d` is a raw nat cast, and `d` is not 1 or 0.
+* `(Rat.rawCast n d : α)` where `n` is `Int.ofNat lit` or `Int.negOfNat nzlit`, `d` is a raw nat
+   cast, and `d` is not 1 or 0.
```
Comment (digama0) [inline Mathlib/Tactic/NormNum/Result.lean:198]:
```suggestion
* `(Rat.rawCast n d : α)` where `n` is a raw int literal, `d` is a raw nat literal, and `d` is not 1 or 0.

(where a raw int literal is of the form `Int.ofNat lit` or `Int.negOfNat nzlit` where `lit` is a raw nat literal)
```

File: Mathlib/Tactic/NormNum/Result.lean [hunk 2]
```diff
@@ -194,7 +194,9 @@ A "raw rat cast" is an expression of the form:
 
 * `(Nat.rawCast lit : α)` where `lit` is a raw natural number literal
 * `(Int.rawCast (Int.negOfNat lit) : α)` where `lit` is a nonzero raw natural number literal
-* `(Rat.rawCast n d : α)` where `n` is a raw int cast, `d` is a raw nat cast, and `d` is not 1 or 0.
+* `(Rat.rawCast n d : α)` where `n` is a raw int literal, `d` is a raw nat literal, and `d` is not 1 or 0.
+
+(where a raw int literal is of the form `Int.ofNat lit` or `Int.negOfNat nzlit` where `lit` is a raw nat literal)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Result.lean:199]: Are you happy with my use of `nzlit` here?

File: Mathlib/Tactic/Ring/RingNF.lean [hunk 3]
```diff
@@ -119,12 +119,10 @@ theorem add_neg {R} [Ring R] (a b : R) : a + -b = a - b := (sub_eq_add_neg ..).s
...
-theorem int_rawCast_1 {R} [Ring R] : (Int.rawCast (.negOfNat 1) : R) = -1 := by
-  simp [Int.negOfNat_eq]
-theorem int_rawCast_2 {R} [Ring R] [Nat.AtLeastTwo n] :
-    (Int.rawCast (.negOfNat n) : R) = -OfNat.ofNat n := by
-  simp [Int.negOfNat_eq, OfNat.ofNat]
-theorem rat_rawCast_2 {R} [DivisionRing R] : (Rat.rawCast n d : R) = n / d := by simp
+theorem int_rawCast_pos {R} [Ring R] : (Int.rawCast (.ofNat n) : R) = Nat.rawCast n := by simp
+theorem int_rawCast_neg {R} [Ring R] : (Int.rawCast (.negOfNat n) : R) = -Nat.rawCast n := by simp
+theorem rat_rawCast {R} [DivisionRing R] :
+    (Rat.rawCast n d : R) = Int.rawCast n / Nat.rawCast d := by simp
```
Comment (eric-wieser) [inline Mathlib/Tactic/Ring/RingNF.lean:125]: The docstring in the other file says that `Int.rawCast (.ofNat n)` is not allowed to ever appear; so arguably `rat_rawCast` is a bad lemma because it introduces this illegal form, even if only temporarily.

I think the version I had that preserved the invariant was a little clearer.

File: Mathlib/Tactic/NormNum/Result.lean (hunk 2 above)
Comment (digama0) [reply Mathlib/Tactic/NormNum/Result.lean:199]: Sure, it's a bit awkward to phrase the constraint here (I think raw int literals are also defined in some other doc comment) but this is the right idea.

File: Mathlib/Tactic/Ring/RingNF.lean (hunk 3 above)
Comment (digama0) [reply Mathlib/Tactic/Ring/RingNF.lean:125]: We're taking things out of raw cast form here, so it's fine to break those invariants. (More precisely we are temporarily weakening one of the invariants to allow the `Int.rawCast (.ofNat n)` form.) The main reason I like this version better is that it's more orthogonal, we only need one case each for negation and division and the int cast. Otherwise we need a cartesian product of cases for all the ways that you can build literals.

Comment (eric-wieser) [reply Mathlib/Tactic/Ring/RingNF.lean:125]: Just for comparison, my proposal is
```suggestion
theorem int_rawCast_neg {R} [Ring R] : (Int.rawCast (.negOfNat n) : R) = -Nat.rawCast n := by simp
theorem rat_rawCast_pos {R} [DivisionRing R] :
    (Rat.rawCast (.ofNat n) d : R) = Nat.rawCast n / Nat.rawCast d := by simp
theorem rat_rawCast_neg {R} [DivisionRing R] :
    (Rat.rawCast (.negOfNat n) d : R) = Int.rawCast (.negOfNat n) / Nat.rawCast d := by simp
```
which has two benefits:
* It never transitions through an invalid use of `Int.rawCast`
* It doesn't accept invalid uses of `Rat.rawCast`

This is hardly a cartesian explosion, since we only have three types here anyway.

Comment (collares) [reply Mathlib/Tactic/Ring/RingNF.lean:125]: Bhavik posted the following example on Zulip:
```
import Mathlib.Data.Real.Basic
example {n : ℝ} : (n + 1 / 2) ^ 2 * (n + 1 + 1 / 3) ≤ (n + 1 / 3) * (n + 1) ^ 2 := by ring_nf; sorry
```
On 86251e6, the remaining goal displays as `⊢ 1 / 3 + n * (OfNat.ofNat 19 / 12) + n ^ 2 * (OfNat.ofNat 7 / 3) + n ^ 3 ≤ 1 / 3 + n * (OfNat.ofNat 5 / 3) + n ^ 2 * (OfNat.ofNat 7 / 3) + n ^ 3` in the infoview. Applying Eric's suggestion, it is `⊢ 1 / 3 + n * (19 / 12) + n ^ 2 * (7 / 3) + n ^ 3 ≤ 1 / 3 + n * (5 / 3) + n ^ 2 * (7 / 3) + n ^ 3`

Comment (digama0) [reply Mathlib/Tactic/Ring/RingNF.lean:125]: (Note, regarding the two simp lemma strategies, I don't really care that much about it. Use whichever one you prefer.)

Comment (eric-wieser) [reply Mathlib/Tactic/Ring/RingNF.lean:125]: @collares, do you have any ideas for how to write a test for that? It seems the one I added doesn't spot the issue.

Comment (eric-wieser) [reply Mathlib/Tactic/Ring/RingNF.lean]: I ended up using `guard_mgs` with `trace_state`

File: test/ring.lean [hunk 4]
```diff
@@ -158,3 +158,24 @@ example (p : R PUnit.{u+1} PUnit.{v+1}) : p + 0 = p := by
...
+---
+info: n : ℝ
+hn : 0 ≤ n
+⊢ 1 / 3 + n * (19 / 12) + n ^ 2 * (7 / 3) + n ^ 3 ≤ 1 / 3 + n * (5 / 3) + n ^ 2 * (7 / 3) + n ^ 3
+-/
+#guard_msgs in
+example {n : ℝ} (hn : 0 ≤ n) : (n + 1 / 2) ^ 2 * (n + 1 + 1 / 3) ≤ (n + 1 / 3) * (n + 1) ^ 2 := by
+  ring_nf
+  trace_state
+  sorry
```
Comment (digama0) [inline test/ring.lean:181]:
```suggestion
  exact test_sorry
```

Comment (eric-wieser) [reply test/ring.lean:181]: `test_sorry` has the interesting effect of complaining about unused hypotheses

Comment (digama0) [reply test/ring.lean]: you will have to use `_hn` etc as well. The reason is because the linter doesn't fire on proofs that contain sorry.

File: test/ring.lean [hunk 5]
```diff
@@ -158,3 +158,22 @@ example (p : R PUnit.{u+1} PUnit.{v+1}) : p + 0 = p := by
...
 example (p q : R PUnit.{u+1} PUnit.{v+1}) : p + q = q + p := by
   ring_nf
+
+-- https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ring_nf.20returns.20ugly.20literals/near/400988184
+example {n : ℝ} :
+    (n + 1 / 2) ^ 2 * (n + 1 + 1 / 3) = 1 / 3 + n * (19 / 12) + n ^ 2 * (7 / 3) + n ^ 3 := by
+  -- `conv_lhs` prevents `ring_nf` picking a bad normalization for both sides.
+  conv_lhs => ring_nf
+
+-- We can't use `guard_target =ₛ` here, as while it does detect stray `OfNat`s, it also complains
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply test/ring.lean:168]: Or some intermediate "syntactically equal except for instances"
